US09428511B2
Step 1 (3S,4S)-Benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-ethylpyrrolidine-1-carboxylate
A solution of 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide (0.940 g, 3.41 mmol), (3S,4S)-benzyl 3-amino-4-ethylpyrrolidine-1-carboxylate (1.017 g, 4.09 mmol) and Hunig's Base (1.788 ml, 10.24 mmol) in DMF (3.0 ml) in a reaction vial was stirred at 90° C. for 2 h. The reaction solution was added slowly to a stirred ice-water resulting in a light tan precipitate. The suspension was stirred for 30 min at 0° C. After filtration, (3S,4S)-benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-ethylpyrrolidine-1-carboxylate was collected as a light tan solid (1.716 g, 3.52 mmol, 100% yield). ESI-MS (analytical LCMS Method A): m/z 489.1, 487.1 ([M+H]+).

reactant | 2-bromo-8-chloroimidazo[1,2-b]pyridazine-7-carboxamide | 3.41 mmol, 0.940 g | BrC=1N=C2N(N=CC(=C2Cl)C(=O)N)C1 | C7H4BrClN4O
reactant | (3S,4S)-benzyl 3-amino-4-ethylpyrrolidine-1-carboxylate | 4.09 mmol, 1.017 g | N[C@@H]1CN(C[C@@H]1CC)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
reactant | Hunig's Base | 10.24 mmol, 1.788 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | (3S,4S)-Benzyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-ethylpyrrolidine-1-carboxylate | 3.52 mmol, 1.716 g, 100% yield | BrC=1N=C2N(N=CC(=C2N[C@@H]2CN(C[C@@H]2CC)C(=O)OCC2=CC=CC=C2)C(N)=O)C1 | C21H23BrN6O3
